US07582769B2
1-(1-Acetyl-piperidin-4-yl)-1-(trans-4-methyl-cyclohexyl)-3-{5-[2-oxo-2-(4-pyrimidin-2-yl-piperazin-1-yl)-ethylsulfanyl]-thiazol-2-yl}-urea
Prepared in a similar manner to 1-(1-acetyl-piperidin-4-yl)-1-(trans-4-methyl-cyclohexyl)-3-[5-(2-oxo-2-piperidin-1-yl-ethylsulfanyl)-thiazol-2-yl]-urea using {2-[3-(1-acetyl-piperidin-4-yl)-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid and 2-(piperazinyl)pyrimidine.

reactant | 1-(1-acetyl-piperidin-4-yl)-1-(trans-4-methyl-cyclohexyl)-3-[5-(2-oxo-2-piperidin-1-yl-ethylsulfanyl)-thiazol-2-yl]-urea | C(C)(=O)N1CCC(CC1)N(C(=O)NC=1SC(=CN1)SCC(N1CCCCC1)=O)[C@@H]1CC[C@H](CC1)C | C25H39N5O3S2
reactant | {2-[3-(1-acetyl-piperidin-4-yl)-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid | C(C)(=O)N1CCC(CC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)[C@@H]1CC[C@H](CC1)C | C20H30N4O4S2
reactant | 2-(piperazinyl)pyrimidine | N1(CCNCC1)C1=NC=CC=N1 | C8H12N4
product | 1-(1-Acetyl-piperidin-4-yl)-1-(trans-4-methyl-cyclohexyl)-3-{5-[2-oxo-2-(4-pyrimidin-2-yl-piperazin-1-yl)-ethylsulfanyl]-thiazol-2-yl}-urea | C(C)(=O)N1CCC(CC1)N(C(=O)NC=1SC(=CN1)SCC(N1CCN(CC1)C1=NC=CC=N1)=O)[C@@H]1CC[C@H](CC1)C | C28H40N8O3S2
